US04472409
2.6 g (0.013 mole) of commercially available 85% strength m-chloroperoxybenzoic acid are added dropwise to a suspension, cooled to -20° C., of 3.0 g (0.013 mole) of 5-trifluoromethyl-2-methylthio-benzimidazole in 50 ml of methylene chloride in the course of 30 minutes. The mixture is then stirred for a further 60 minutes and is then extracted twice with, each time, 20 ml of an aqueous potassium carbonate solution. The solvent is stripped off in vacuo and the solid residue which remains is recrystallized from acetonitrile. 1.8 g of 5-trifluoromethyl-2-methylsulfinyl-benzimidazole of m.p. 135° C. are obtained. Deprotonation of this compound with n-butyllithium and reaction with 2-chloro-4-methoxypyridine in dry benzene yields the title compound of m.p. 166° C. (decomposition).

reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-trifluoromethyl-2-methylthio-benzimidazole | 0.013 mole, 3.0 g | FC(C1=CC2=C(N=C(N2)SC)C=C1)(F)F | C9H7F3N2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-trifluoromethyl-2-methylsulfinyl-benzimidazole | 1.8 g | FC(C1=CC2=C(N=C(N2)S(=O)C)C=C1)(F)F | C9H7F3N2OS
